US07709519B2
A 4.96 g portion of ethyl orthoacetate dissolved in 10 ml of ethanol was added to 50 ml of ethanol solution containing 4.68 g of 4-chloro-5-fluorobenzene-1,2-diamine and heated under reflux for 4 hours. After concentration of the reaction liquid, the thus formed residue was purified by a silica gel column chromatography to obtain 2.10 g (39%) of 5-chloro-6-fluoro-2-methyl-1H-benzimidazole from a chloroform-methanol (10:1) eluate. ES+: 185

reactant | ethyl orthoacetate | C(C)(OCC)([O-])[O-]
reactant | 4-chloro-5-fluorobenzene-1,2-diamine | 4.68 g | ClC=1C=C(C(=CC1F)N)N | C6H6ClFN2
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-chloro-6-fluoro-2-methyl-1H-benzimidazole | 2.10 g, 39% | ClC1=CC2=C(NC(=N2)C)C=C1F | C8H6ClFN2
